US07435837B2
Treatment of (±)-1-(7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl)methanamine (0.770 g, 3.40 mmol) with diisopropylethylamine (0.660 g, 5.1 mmol) and benzyl chloroformate (0.778 g, 4.08 mmol) generally according to the procedure described for Intermediate 12 provided 0.702 g (57%) of (±)-benzyl [(7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl)methyl]carbamate as an amber oil.

reactant | (±)-1-(7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 3.40 mmol, 0.770 g | N1=CC(=CC=C1)C1=CC=CC=2CC(OC21)CN | C14H14N2O
reactant | diisopropylethylamine | 5.1 mmol, 0.660 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.08 mmol, 0.778 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl [(7-pyridin-3-yl-2,3-dihydro-1-benzofuran-2-yl)methyl]carbamate | 0.702 g, 57% | N1=CC(=CC=C1)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C22H20N2O3
